US09145392B2
5-ethyl-6-(4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(2-(3-methylazetidin-1-yl)ethyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-4-amine (“93”)
The title compound was prepared in an analogous manner as 5-ethyl-6-(4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(2-(3-fluoroazetidin-1-yl)ethyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-4-amine using 4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(2-(3-methylazetidin-1-yl)ethyl)-1H-imidazol-2-yl)piperidine instead of 4-[1-[2-(3-Fluoro-azetidin-1-yl)-ethyl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidine. LC-MS: (M+1=532, obsd.=532).

reactant | 5-ethyl-6-(4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(2-(3-fluoroazetidin-1-yl)ethyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-4-amine | C(C)C=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCN1CC(C1)F)N | C26H30F5N7
reactant | 4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(2-(3-methylazetidin-1-yl)ethyl)-1H-imidazol-2-yl)piperidine | FC1=C(C=C(C=C1)C=1N=C(N(C1)CCN1CC(C1)C)C1CCNCC1)C(F)(F)F | C21H26F4N4
product | 5-ethyl-6-(4-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(2-(3-methylazetidin-1-yl)ethyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-4-amine | C(C)C=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCN1CC(C1)C)N | C27H33F4N7
